US05387684
Methanol (2 ml) was added to 1-{[3-bromo-2-[2-(2-(triphenylmethyl)-2H-tetrazol-5-yl)phenyl]-2H-indazol-5-yl]methyl}-2-butyl-4-chloro-1H-imidazole-5-carbaldehyde (0.200 g, 0.256 mmol) as obtained in Example 11, and the mixture was stirred at 10°C. Thereto was added 2N hydrochloric acid (0.23 ml), and the mixture was stirred at room temperature for 2 hours. Then, 2N hydrochloric acid (0.23 ml) and methanol (2.5 ml) were added thereto, and the mixture was stirred for 3 hours, after which conc. hydrochloric acid (2 ml) was added thereto and the mixture was stirred for 15.5 hours. 10N Aqueous sodium hydroxide was added to adjust its pH to 13, and the methanol was distilled away in an evaporator. The resultant solid was filtered, and the cake was washed twice with 1N sodium hydroxide (2.5 ml). The filtrate was washed with ether (5 ml), and conc. hydrochloric acid was dropwise added while stirring so as to adjust its pH to 4-5. The resultant solid was filtered off and washed twice with ion-exchanged water (5 ml). Drying in vacuo at 37° C. gave 45 mg of 1-{[3-bromo-2-[2-(1H-tetrazol-5-yl)phenyl]-2H-indazol-5-yl]methyl}-2-butyl-4-chloro-1H-imidazole-5-carbaldehyde.

reactant | 1-{[3-bromo-2-[2-(2-(triphenylmethyl)-2H-tetrazol-5-yl)phenyl]-2H-indazol-5-yl]methyl}-2-butyl-4-chloro-1H-imidazole-5-carbaldehyde | 0.256 mmol, 0.200 g | BrC=1N(N=C2C=CC(=CC12)CN1C(=NC(=C1C=O)Cl)CCCC)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H34BrClN8O
reactant | hydrochloric acid | 2N, 0.23 ml | Cl | ClH
reactant | hydrochloric acid | 2N, 0.23 ml | Cl | ClH
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | methanol | 2.5 ml | CO | CH4O
solvent | Methanol | 2 ml | CO | CH4O
product | 1-{[3-bromo-2-[2-(1H-tetrazol-5-yl)phenyl]-2H-indazol-5-yl]methyl}-2-butyl-4-chloro-1H-imidazole-5-carbaldehyde | 45 mg | BrC=1N(N=C2C=CC(=CC12)CN1C(=NC(=C1C=O)Cl)CCCC)C1=C(C=CC=C1)C1=NN=NN1 | C23H20BrClN8O
